US05750523
(1S)-1-(4-chlorophenyl)-1,3-propanediol
500 ml of a dimethoxyethane solution of 15.0 g of (2S,3R)-3-(4-chlorophenyl)-2,3-epoxy-1-propanol was cooled to -25° C., and 25.1 ml of a red-Al solution (3.4 mol/l toluene solution) was added dropwise over 0.5 hour. After stirred at 20° C. for 2 hours, the mixture was brought to 0° C. over 1 hour, and 300 ml of diethyl ether was added thereto. While the mixture was kept below 5° C., 100 ml of 2N hydrochloric acid was added dropwise. After stirring for 15 minutes, the mixture was filtered through celite. Then, 100 ml of ethyl acetate was added, and the resulting mixture was allowed to separate. The aqueous layer was extracted again with ethyl acetate. The organic layers were combined, dried over sodium sulfate and filtered through celite. The solvent was distilled off the filtrate, and the resulting residue was purified by silica gel column chromatography (eluent; methanol/chloroform=5/95). It was crystallized to obtain 14.56 g of the title compound as white crystals.

reactant | dimethoxyethane | 500 ml | C(OC)COC | C4H10O2
reactant | (2S,3R)-3-(4-chlorophenyl)-2,3-epoxy-1-propanol | 15.0 g | ClC1=CC=C(C=C1)[C@@H]1[C@H](CO)O1 | C9H9ClO2
reactant | red-Al | 3.4 mol/l, 25.1 ml | COCCO[AlH2-]OCCOC.[Na+]
reactant | hydrochloric acid | 2N, 100 ml | Cl | ClH
solvent | diethyl ether | 300 ml | C(C)OCC | C4H10O
product | (1S)-1-(4-chlorophenyl)-1,3-propanediol | 14.56 g | ClC1=CC=C(C=C1)[C@H](CCO)O | C9H11ClO2
